Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I will never be happy and I don't want to live anymore. I was 
going to write my suicide note and jump off a 10 story building 
but called my psychiatrist instead."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo female with a history of recurrent
depression, past opiate and alcohol abuse who was encouraged to
come to the ED by her outpatient psychiatrist Dr. ___ due to
worsening depression and suicidal ideation with a plan to jump
off a 10 story building. The patient's psychiatric hx dates back
to age ___ with hospitalizations at a young age. Patient has 
tried
multiple medication trials and one 10 session ECT trial. She is
currently taking Parnate and Lamictal which she feels has been
somewhat effective although it hasn't lifted her from a
near-persistant dysthymic state for ___ years. The patient reports
that she has been increasingly sad and depressed, especially 
over
the past couple of months. Patient says she is sleeping ___
hours a night, tearful almost all of the time, and is 
restricting
her diet.

Ms. ___ recently got laid off from ___ as an 
___ and had to downsize her living situation with a move
from ___ to ___. Because she feels like she can't
find opportunities in ___, she is currently taking classes
in nursing (and getting straight A's) to start a career in
___. However, lately these classes have been overwhelming 
and
she can't concentrate on her studies. Patient has a ___ and
an Ph D. degree despite a tumultuous childhood and being unable
to finish high school on time. Patient later got her GED and 
went
to college, at ___, at age ___. She said that studying
kept her busy (along with ___) and not thinking about 
her
childhood which was wrought with physical abuse, running away,
psychiatric admissions, and loneliness. Later in life, patient
had a few suicidal attempts often attached with feelings from 
her
childhood. Patient had a period of ___ years when she became
addicted to narcotics and began forging physician prescriptions
which was triggered by comparing her childhood to her daughters.
She had never realized that "women were supposed to have
friends."

In speaking with patient's husband of ___ years, ___
(___) says that normally he can tell when Ms. ___
becomes severely depressed. However, this time, patient has been
hiding it from him and he was not able to recognize the 
tell-tale
signs. Thus, he was surprised to be called to the Emergency
Department. Patient was brought in by her friend ___ who 
seems
very concerned about her care.

At this time, patient denies HI, AH, VH. She denies symptoms of
mania, hypervigilance, night terrors, nightmares, memories from
her childhood that affect her current concentration and
attention. She denies insomnia, but says she sleeps a lot,
decreased appetite, decreased attention, concentration and
positive for suicidal ideation with plan.

On interview on ___, the patient reports that although
she has recently been suicidal with plans, she is not a risk to
herself at the present moment, 'just tired'.  Her mood is
unchanged.  She reports that she needs Ativan to fall asleep and
requests it several times, stating that her sleep was 
interrupted
while she was in the emergency room.  
 
Past Medical History:
* PCP ___ @ ___
* obesity
* HTN
* Hyperlipedemia

PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR):
* Dr. ___ in ___
* Therapist ___ @ ___
* ___ ___ and ___
* ___ ___ for SI
* Admission to ___ ___ for 2 weeks for SI with attempt and
then transferred to ___ for 3 weeks
* age ___ suicide attempt but slitting her wrist, hospitalized
  @ ___, the ___ Unit for ___ years,
  also hx of reported psychosis during that admission.
* age ___ attempted suicide by driving her car off a mountain as 
  she when her husband who was then her boyfriend said he ___
love her
* as a teenager she was initially diagnosed with schizoid 
  personality, however patient reports this was later "dropped"
 
Social History:
The patient was born and grew up in ___ the middle of
5 children with 2 older brothers and ___ younger sisters. Her
parents are deceased. Patient reports physical abuse by her
father as a a child which compelled her to run away from home at
age ___ and lived in the woods for a couple weeks. When she was
found, patient was sent back home when she ran away again. At 
age
___ after a suicide attempt she was hospitalized 2 ___. She reports that at age ___ she
was given a choice of "getting it together" or she would be
transferred to the Adult unit of ___. At age ___
she reports she got a room on ___, worked as a
___, ___ and ___. She completed her GED from
___ and graduated from ___
with a degree in ___ and eventually earned her PhD in
___. She was a ___ at ___ but
got laid off last year. She is now taking classes in nursing
school where she is getting straight A's. She is married and has
a daughter who has graduated from college and lives in
___ and her husband recently moved from ___ to
___ when she lost her job due to financial problems.

SUBSTANCE ABUSE HISTORY (INCLUDE HISTORY OF D.T.'S, WITHDRAWAL
SEIZURES, BLACKOUTS, DETOX TREATMENT, I.V. USAGE):
alcohol: hx of abuse years ago with blackouts,no sz, stopped for 
many years, ___ yr ago was drinking more, now drinks 2 glases of 
wine a week.
drugs: hx of addiction to opiates, past abuse to oxycontin. For 
___
years, patient forged prescriptions of different treaters and 
was
able to get narcotics from various pharmacies. She eventually
stopped herself and went to detox for 3 days. tob:stopped 
smoking
many years ago
 
Family History:
Sister and brother with alcohol and drug abuse, father had 
problems with anger management, was physically abusive

 
Physical Exam:
Physical Exam on Admission:
VS:  BP: 128/83  HR: 68 O2 sat: 96%   height:   weight: 75 kg

Gen: middle aged overweight Caucasian female in no acute 
distress
HEENT: normocephalic, oropharnyx clear. PERRL, EOMI.
CV: RRR, no M/R/G
Pulm: CTAB
Abd: +BS, NDNT, soft
Ext: no C/C/E

Neurological:
  CN:
   II: PERRLA
   III, IV, VI: EOM intact
   V: facial sensation intact bilat
   VII: facial mvts symmetric bilat
   VIII: finger rub audible bilat
   IX, X: palate raise symmetric bilat
   XI: SCM and trapezii ___ bilat
   XII: tongue midline
  Motor: Normal bulk and tone, strength ___ in all extremities,
no pronator drift or asterixis.
  Sensory: grossly intact to light touch bilaterally
  Reflexes: 2+ biceps, triceps, brachioradialis and patellar
reflexes.
  Cerebellar: Intact finger to nose.
  Gait: intact.
  Abnormal movements: none noted.

Mental Status:
 Appearance: middle aged female, overweight, wearing hospital
___, grooming fair, appears to move slowly
 Behavior: cooperative with interview
 Mood:  depressed, 'just tired'
 Affect: blunted
 Thought process: linear
 Thought Content: appears minimal
 Judgment: intact
 Insight: intact
 SI/HI:  Endorses recent SI with plan to jump off a building or
drive to ___ and buy a gun, but reports that at this
time, she is 'just tired' and not at immediate risk of hurting
herself.  Denies HI. 
 Perception: no AVH, delusions, or paranoia

Cognitive Exam:
  Attention: able to recite DOWB
  Orientation: oriented to person, place, and date
  Memory: ___ registration and recall
  Fund of knowledge: able to recall current president, appears
very good
  Calculations: quarters in $1.35 = 27 nickels
  Speech: diminished rate, diminished volume, and flat prosody
  Language: used appropriately
  Analogy: ruler and weighing machine ='measuring instruments'
 
Pertinent Results:
___ 12:30PM   GLUCOSE-102* UREA N-11 CREAT-0.8 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-28 ANION GAP-12
___ 12:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:30PM   WBC-6.0 RBC-4.76 HGB-16.1* HCT-45.3 MCV-95 
MCH-33.9* MCHC-35.6* RDW-12.6
___ 12:30PM   NEUTS-73.3* ___ MONOS-5.4 EOS-1.8 
BASOS-0.7
___ 12:30PM   PLT COUNT-215
 
Brief Hospital Course:
#Major depression:
Pt. admitted for episode of worsening depression and suicidal 
ideation with plan and prominent death wish. Pt. was felt to be 
help-seeking but with significant ambivalence and with possible 
psychodynamic fear of improvement. Following discussion with 
outpatient treaters and inpatient treatment team, pt. amenable 
to ECT treatment of depression. Pt. received medicine and 
anesthesia ECT clearance, with pt.’s EKG showing normal sinus 
rhythm and delayed precordial R wave progression which was 
likely a normal variant. Pt.’s lamotrigine was gradually tapered 
to discontinuation in effort to lower ECT threshold. Pt.’s 
Ativan was also held on the evening prior to ECT treatments and 
pt. intermittently received diphenhydramine or quetiapine 25mg 
prn insomnia. Pt. received bitemporal ECT and following 
treatment sessions, reported experiencing side-effects of 
confusion and headache (see medical section below). Following 
first two sessions, pt. reported significant improvement in 
mood, appeared less depressed with more reactive affect. 
Following later sessions, however, pt. evidenced increased 
agitation, tearfulness, reported feeling more depressed, 
hopeless and pessimistic about resolution of depression. Pt. 
also reported increase in suicidality with more frequent 
thoughts and dreams, to the extent that she was equivocal about 
her ability to maintain her safety on the unit and seek help 
from staff. Pt. was amenable to starting antipsychotic to aid in 
reducing distress during this period, especially following 
discontinuation of lamictal, and was started on haloperidol 
2.5mg BID. Following pt.’s fourth ECT session, she appeared 
significantly more distraught and reported increased suicidality 
with thoughts of hanging herself, and was placed on continuous 
observation by unit staff. Within a few hours, pt. reported 
improvement in suicidality, denied continued plan and was able 
to state she would reach out to staff appropriately if needed. 
Pt. did not evidence any behaviors concerning for self-harm 
during her hospitalization. Given level of pt.’s depression and 
suicidality, treatment team felt pt. would benefit from 
additional stay in hospital for safety, stabilization and 
additional ECT treatments for complete treatment of depressive 
episode, which pt.’s outpatient psychiatrist, Dr. ___, was in 
agreement with. Following fifth and sixth ECT sessions, however, 
pt. reported improved mood and requested discharge, however, pt. 
continued to appear depressed and evidenced limited future 
orientation, and was felt to continue to be at high risk for 
self-harm. Pt. initially declined additional ECT session due to 
severity of side-effects, but after encouragement by husband, 
was amenable to additional session of unilateral ECT to minimize 
occurrence of side effects. Following this session, pt. again 
requested discharge, and refused to engage in any additional ECT 
sessions.  Pt. was informed of treatment team recommendations to 
complete recommended course of ECT given severity of depression, 
continued intermittent suicidality and concern of relapse due to 
truncated ECT schedule (6 bilateral ECT, 1 unilateral ECT 
session), but pt. firmly declined and stated understanding of 
risks and benefits of such a course of action. Pt. reported 
improvement in mood with lessening of depression, denied 
hopelessness, denied suicidal ideation, intent, plan or 
preparation, stated future plans of attending partial hospital 
program, returning to outpatient treaters and ___ DBT group, 
which has been a significant source of support, meeting with 
friends, resuming school, as well as stated that if depressive 
symptoms worsened or pt. felt unsafe, she would contact 
outpatient treaters, 911, or return to ER. Pt. was restarted on 
lamictal in preparation for discharge as requested by outpatient 
psychiatrist. 
 
# Medical:
Constipation: Pt. reported experiencing constipation, which was 
managed with senna, colace and miralax.

post-ECT headache: Pt. reported experiencing bitemporal 
headaches following ECT. Pt. was given ibuprofen and 
acetaminophen prn for headaches, as well as was premedicated 
with Toradol IV prior to her ECT sessions. Pt. reported minimal 
improvement with medications, but complete resolution of 
headaches within a few hours following ECT. Following unilateral 
treatment, pt. reported mild headache and resolved quickly with 
medications. 

# Psychosocial:
Pt. participated in group sessions and unit milieu during 
hospitalization. Pt. was involved in family meetings with 
husband led by social worker, but declined to have treatment 
team contact daughter. Pt. was also in contact with Dr. ___ 
___ inpatient, holding a phone conversation with him on ___ 
prior to his vacation. In speaking to Dr. ___ reported 
that pt. expressed she was doing better, but he continued to 
support treatment team’s recommendation for continued inpatient 
stay, additional ECT treatments, as well as recommended referral 
to a day program given that he would be out of town.

#Legal: ___
Medications on Admission:
Parnate 100 mg. PO TID 
LAMICTAL 200mg PO QHS
ATIVAN 2 mg PO QHS PRN for sleep
Trazadone 100 mg. PO PRN QHS for sleep 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I - MDD- Suicidal thoughts.
Axis II -Def for now
Axis III -None active.
Axis IV -Multiple, home based, medical, psych
Axis V -32

 
Discharge Condition:
MSE
A Ox3, casually dressed, minimally interactive. 
___ Normal rate/volume/fluency: 
Cog Exam: WNL for attn./conc/. 
AIMS - None
Mood : 'better'. Aff: constricted
No Delusions, Obsessions.
No LOA, FOI, TT/TB
No AV/H
Denies thoughts of harming self/others on the unit.
I/J : fair.

 
Discharge Instructions:
- Take all medications as prescribed
- Follow-up with all outpatient appointments
- Call your doctor or go to nearest emergency room if you are 
feeling unwell or unsafe

 
Followup Instructions:
___